US09126980B2
Step 4: Preparation of (S)-1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-5-methyl-1H-pyrazole-3-carboxylic acid
To a solution of (S)-ethyl 1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-5-methyl-1H-pyrazole-3-carboxylate (50.0 g, 100.6 mmol) in THF (80 mL) and water (20 mL) was added lithium hydroxide monohydrate (21.1 g, 503.0 mmol) followed by stirring at RT for 12 h. The reaction mixture was concentrated invacuo, diluted with water (80 mL) and extracted with diethyl ether (100 mL). The aq. layer was cooled to 0° C., acidified up to pH ˜4 using 3N HCl and extracted with EtOAc (200 mL×2), twice. The combined organic layers were washed with water (200 mL), brine (100 mL), dried over sodium sulphate and concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as a pale yellow solid, 40 g (crude). Rf=0.10 (30% EtOAc in hexane); 1H NMR (400 MHz, DMSO-d6): δ 12.80-11.80 (m, 1H), 8.15-7.40 (m, 3H), 7.30-6.90 (m, 4H), 6.70-6.30 (m, 1H), 5.10-3.70 (m, 5H), 3.50-2.40 (m, 3H), 2.38-2.10 (m, 3H); ES-MS: m/z 470.5 (M+H).

reactant | (S)-ethyl 1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-5-methyl-1H-pyrazole-3-carboxylate | 100.6 mmol, 50.0 g | BrC1=CC(=C(C=C1)N1N=C(C=C1C)C(=O)OCC)C(=O)N1CC2=CC=CC=C2C[C@H]1CO | C24H24BrN3O4
reactant | lithium hydroxide monohydrate | 503.0 mmol, 21.1 g | O.[OH-].[Li+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (S)-1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-5-methyl-1H-pyrazole-3-carboxylic acid | BrC1=CC(=C(C=C1)N1N=C(C=C1C)C(=O)O)C(=O)N1CC2=CC=CC=C2C[C@H]1CO | C22H20BrN3O4
